US05416231
Preparation of (1S*,3S*)-3-(3-(tetrahydropyranyloxy-1-propynyl)cyclopentanecarboxylic acid methyl ester
To a solution of a borane-dimethylsulfide complex (1.98 ml, 20.2 mmol) in THF (18.3 ml), a 1M THF solution of 2,3-dimethyl-2-butene (20.2 ml, 20.2 mmol) was added at 0° C., and the mixture was stirred at the same temperature. Two hours later, the reaction solution was cooled to -25° C., and a solution of 3-cyclopentenecarboxylic acid methyl ester (2.55 g, 20.2 mmol) in THF (20 ml) was dropwise added thereto. The mixture was stirred at the same temperature for 1.5 hours. Then, methanol (1.64 ml) was dropwise added thereto. The reaction temperature was raised to 0° C., and the mixture was stirred for one hour. The reaction solution was concentrated under reduced pressure, dried and then dissolved in THF (20 ml). Separately, a n-butyllithium/1.5M hexane solution (1.37 ml, 20.6 mmol) was added at 0° C. to a solution of propargyl tetrahydropyranyl ether (2.83 g, 20.2 mmol) in THF (20 l), and the mixture was stirred for one hour. This solution was dropwise added at 0° C. to the above THF solution (10 ml). Then, the reaction solution was cooled to -78° C., and a solution of iodine (5.13 g, 20.2 mmol) in THF (10 ml) was dropwise added thereto, and the mixture was stirred at the same temperature for one hour and at room temperature for two hours. A 2N sodium hydroxide aqueous solution (12.1 ml) and a 30% hydrogen peroxide aqueous solution (2.83 ml) were dropwise added thereto, and the mixture was stirred for 5 minutes, then diluted with ethyl acetate (150 ml) and washed with a saturated sodium thiosulfate aqueous solution (150 ml) and a saturated sodium chloride aqueous solution (150 ml). The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the above identified compound (2.56 g, 47.6%).

reactant | 2,3-dimethyl-2-butene | 20.2 mmol, 20.2 ml | CC(C)=C(C)C | C6H12
reactant | 3-cyclopentenecarboxylic acid methyl ester | 20.2 mmol, 2.55 g | COC(=O)C1CC=CC1 | C7H10O2
reactant | n-butyllithium | 20.6 mmol, 1.5M, 1.37 ml | C(CCC)[Li]
reactant | propargyl tetrahydropyranyl ether | 20.2 mmol, 2.83 g | O1C(CCCC1)OCC#C | C8H12O2
reactant | iodine | 20.2 mmol, 5.13 g | II | I2
reactant | sodium hydroxide | 2N, 12.1 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 2.83 ml | OO | H2O2
solvent | THF | 18.3 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 l | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | methanol | 1.64 ml | CO | CH4O
product | 3-(tetrahydropyranyloxy-1-propynyl)cyclopentanecarboxylic acid methyl ester | COC(=O)C1CC(CC1)C#CCOC1OCCCC1 | C15H22O4
